US07863291B2
Step A: Oxazolo[4,5-b]pyridin-2-amine
An oven dried round bottom flask was charged with di(1H-imidazol-1-yl)methanimine (500 mg, 3.10 mmol), 2-aminopyridin-3-ol (171 mg, 1.551 mmol) and anhydrous THF (20 ml) at room temperature. The resulting suspension was refluxed under N2 for 1 hr. LC/MS indicated complete consumption of starting material. The solvent was removed in vacuo and the residue was used in the next step without further purification. MS(LC/MS) R.T.=0.235; [M+H]+=136.09.

reactant | di(1H-imidazol-1-yl)methanimine | 3.10 mmol, 500 mg | N1(C=NC=C1)C(=N)N1C=NC=C1 | C7H7N5
reactant | 2-aminopyridin-3-ol | 1.551 mmol, 171 mg | NC1=NC=CC=C1O | C5H6N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Oxazolo[4,5-b]pyridin-2-amine | O1C(=NC2=NC=CC=C21)N | C6H5N3O
